US05444071
Lithium aluminium hydride (0.6 g) was added to a solution of 7-carboethoxy-2-ethyl-4-quinolone (2.65 g) in THF (200 ml) and the resulting suspension stirred for 2 hours at ambient temperature. Water (100 ml) was slowly added, followed by ethyl acetate (100 ml). The suspension was filtered and washed with ethyl acetate (100 ml). The phases of the filtrate were separated and the aqueous layer re-extracted with ethyl acetate (100 ml). The combined organic phases were dried (MgSO4) and evaporated to give a solid which on recrystallisation from ethyl acetate gave 2-ethyl-7-hydroxymethyl-4-quinolone as a white powder, m.p. 254°-257° C.

reactant | Lithium aluminium hydride | 0.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-carboethoxy-2-ethyl-4-quinolone | 2.65 g | C(=O)(OCC)C1=CC=C2C(CC(=NC2=C1)CC)=O | C14H15NO3
reactant | Water | 100 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-ethyl-7-hydroxymethyl-4-quinolone | C(C)C1=NC2=CC(=CC=C2C(C1)=O)CO | C12H13NO2
